Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet / Zetia / Vicodin / tramadol
 
Attending: ___.
 
Chief Complaint:
Syncope and head trauma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with history of CAD, atrial fibrillation, bradycardia 
s/p PPM, and s/p surgical aortic valve replacement who presented 
with intermittent light-headedness 3 days prior to admission, 
and an episode of syncope on ___nd head 
strike causing a subdural hematoma.  He reported that on ___ 
evening he awoke from sleep to walk to the restroom. During his 
walk, he felt dizzy and lightheaded, without CP, SOB, DOE, HA 
and fell backwards, + head strike, +LOC. LOC lasted on the order 
of seconds, as his wife noted. He was then taken to OSH, where 
head CT showed 4 mm subdural hematoma. CT C-spine was negative. 
He was given 10 mg of vitamin K. Reportedly during transport 
from OSH patient had intermittent tachycardia in the 120-130's 
with SBP in the 60's and symptomatic palpitations. 
Patient also noted that he was recently started on a prednisone 
taper for an asthma exacerbation 3 days ago after an emergency 
dept visit. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: x2 last reportedly in 
___ at ___
 - PACING/ICD: PPM/ICD
 3. OTHER PAST MEDICAL HISTORY  
Bioprosthetic aortic valve- ___ at ___
HLD
Asthma
Bradycardia s/p PPM
AF on AC
BPH
Polycystic liver and kidney per imaging, no formal dx
Hematuria, positive cytology- being worked up by outside urology 
group
 
Social History:
___
Family History:
Father died of MI at age ___
 
Physical Exam:
Admission physical exam:
VS: 97.4 81 117/73 16 96% RA
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple, unable to appreciate JVP given body habitus 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. End expiratory wheezing 
in lower lung fields bilaterally with poor air movement  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: +1 pitting edema to knees bilaterally, no cyanosis 
or clubbing. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

Discharge physical exam:
Vitals: T= 99.2 Tmax=99.2 HR=85 BP=120/84 RR=18 O2=95% on RA  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple, JVP 1-2 cm above clavicle 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No wheezing, no 
crackles.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: +1 pitting edema to knees bilaterally, no cyanosis 
or clubbing. Slightly more edema in left lower extremity, but no 
signs of inflammation, Homans (-)
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
___ 05:10AM BLOOD WBC-9.5 RBC-4.66 Hgb-14.6 Hct-42.8 MCV-92 
MCH-31.3 MCHC-34.1 RDW-13.3 RDWSD-45.1 Plt ___
___ 01:07AM BLOOD WBC-10.6*# RBC-4.88 Hgb-14.8 Hct-44.3 
MCV-91 MCH-30.3 MCHC-33.4 RDW-13.2 RDWSD-43.9 Plt ___
___ 05:10AM BLOOD Glucose-113* UreaN-23* Creat-1.0 Na-138 
K-4.5 Cl-101 HCO3-24 AnGap-18
___ 01:07AM BLOOD Glucose-152* UreaN-29* Creat-1.1 Na-138 
K-4.8 Cl-102 HCO3-23 AnGap-18
___ 01:07AM BLOOD proBNP-___*
___ 05:10AM BLOOD Calcium-8.3* Phos-4.1 Mg-2.2
___ 01:07AM BLOOD Calcium-8.4 Phos-4.0 Mg-2.1

Non-contrast CT:
FINDINGS:  
  
There is a hyperdensity along the left posterior falx, measuring 
up to 4 mm in 
greatest thickness, consistent with acute subdural hematoma, 
grossly unchanged 
compared with CT head in ___ in life image.  There 
is no evidence 
of significant mass effect or midline shift.  There is no 
evidence of acute 
large territorial infarction or new intracranial hemorrhage. The 
ventricles 
and sulci are normal in size and configuration.  Mild 
subcortical and 
periventricular white matter hypodensities are nonspecific, 
however likely 
represent sequela of chronic small vessel ischemic disease. 
  
There is a posterior subgaleal hematoma.  There is no evidence 
of fracture.  
There is mild mucosal thickening of the anterior ethmoid air 
cells.  The 
visualized portion of the remainder of the paranasal sinuses, 
mastoid air 
cells, and middle ear cavities are clear.  The visualized 
portion of the 
orbits are unremarkable. 
  
IMPRESSION:  
  
No significant change in a subdural hematoma layering along the 
left posterior 
falx, measuring up to 4 mm in greatest thickness.  No 
significant mass effect 
or midline shift. 

 
Brief Hospital Course:
Transitional issues:
-___ consider starting ACE ___ if he starts being 
hypertensive
-Consider TTE in the outpatient setting to further evaluate 
syncope. 
-Atenolol was discontinued on this hospital stay 
-Patient may resume anticoagulation on ___ per 
neurosurgery (aspirin and rivaroxaban). Patient was given rx for 
Keppra for 500 mg BID 7-day prophylactic course and should call 
for a ___ clinic appointment. 
-Patient was discharged on a PO prednisone taper as previously 
prescribed by outpatient provider 
-___ follow up in the outpatient setting for urine cytology 

#Syncope: patient had episode of syncope with prodromal 
lightheadedness and dizziness, fall with head strike and LOC. 
PPM interrogated in ED showed no malignant arrhythmias that 
would explain patient's syncope. He believes it is correlated to 
recent prednisone use. He does not have a history of using 
prednisone for multiple asthma exacerbations. No e/o infectious 
symptoms other than rhinorrhea. He had mild volume overload, 
which could have been ___ corticosteroid use, not on diuretics 
at home and received IVF at OSH. Initial episode possibly from 
dehydration ___ acute illness. SDH would not be explained by 
ruptured aneurysm, though pt does have cystic liver and kidney 
without family history of ADPKD/ARPKD. Vasovagal syncope i/s/o 
high vagal tone with awaking from sleep also possible etiology. 
On day of discharge patient was ambulating without difficulty 
and without assistance without symptoms of orthostatism. 
Atenolol was discontinued on admission as a potential 
contributor to syncopal episode. He was discharged on home 
sotalol for rate control of AFib.

#acute SDH: 4mm SDH along L posterior falx, received 10mg IV vit 
K at OSH, stable on repeat imaging. Non-op management per NSGY 
with SBP goal of <160mmHg fulfilled throughout admission, even 
without atenolol.
-Cont Keppra 500 BID x7d
-Resume anticoagulation with Rivaroxaban on ___ per 
Neurosurgery
-F/U ___ clinic in 4 weeks

#AF: currently in AF on EKG. On atenolol, sotalol and 
rivaroxaban at home. Rivaroxaban was held on admission and can 
be restarted on ___ per Neurosurgery
Atenolol was discontinued. 
-CHADS2= 2

#asthma exacerbation: Patient dx with asthma exacerbation 3d 
prior to admission, started on prednisone and nebulizer tx
-Albuterol PRN inhaled QID PRN
-Albuterol/Ipratropium inhaled QID PRN

#CAD s/p PCI
-Continue atorvastatin
-Resume ASA on ___
-discontinued atenolol

#Hematuria, positive urine cytology x3: 
-Urology f/u here on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Finasteride 5 mg PO DAILY 
4. Rivaroxaban 20 mg PO DAILY 
5. Sotalol 120 mg PO BID 
6. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing 
7. Aspirin 81 mg PO DAILY 
8. PredniSONE 40 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 2 tapered doses
9. PredniSONE 20 mg PO DAILY 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 2 tapered doses

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild Duration: 3 
Days  
2.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing  
4.  Atorvastatin 20 mg PO QPM  
5.  Finasteride 5 mg PO DAILY  
6.  PredniSONE 40 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 2 tapered doses 
7.  PredniSONE 20 mg PO DAILY Duration: 3 Days 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 2 tapered doses 
8.  Sotalol 120 mg PO BID  
9. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___
10. HELD- Rivaroxaban 20 mg PO DAILY  This medication was held. 
Do not restart Rivaroxaban until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Syncope
Acute Subdural hematoma

Secondary diagnosis: 
Asthma
Atrial fibrillation on anticoagulation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to ___ 
because you were feeling lightheaded and you had a fall and hit 
your head. We did some studies and found out that you had some 
blood in your head outside of your brain. This is called a 
subdural hematoma. We did another test and found out that the 
hematoma had not grown; our neurosurgeons evaluated you and 
believe that this hematoma will most likely resolve on its own. 

We believe that the fainting episode was not related directly to 
your heart or your pacemaker. 

We think that you can be discharged today and that you can 
continue your recovery at home.

We have adjusted your blood pressure and heart medications to 
decrease the risk of you fainting again. 

We have added further instructions for your other treatments, 
including your blood thinners. Please make sure you follow those 
instructions. 

Please make sure also that you ___ with your outpatient 
cardiologist Dr. ___ in ___ weeks, as well as the Traumatic 
Brain Injury Clinic in 4 weeks.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___